US04124596
Methyl 2-{3-(5-methoxycarbonyl-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}butyrate (19.1 g), suspended in a mixture of potassium hydroxide pellets (16.6 g), distilled water (75 cc) and ethanol (200 cc), is stirred for 48 hours at a temperature of about 20° C. The resulting solution is diluted with distilled water (300 cc), washed three times with diethyl ether (total 600 cc), decolourizing charcoal (3 g) is added, and the solution is filtered and added dropwise to a 5N aqueous solution of hydrogen chloride (100 cc) cooled in an ice bath, the rate of addition being regulated in such a way that the temperature of the mixture remains below 10° C. The resulting crystals are filtered off, washed three times with distilled water (total 150 cc) and dried under reduced pressure (20 mm Hg) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. 2-{3-(5-Carboxy-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}butyric acid (15.8 g), melting at 240° C., is obtained.

reactant | Methyl 2-{3-(5-methoxycarbonyl-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}butyrate | 19.1 g | COC(=O)C1=CC2=C(S1)SC(=C2)C(=O)C=2C=C(C=CC2)C(C(=O)OC)CC | C20H18O5S2
solvent | potassium hydroxide | [OH-].[K+]
product | 2-{3-(5-Carboxy-thieno[2,3-b]thien-2-yl)carbonyl-phenyl}butyric acid | 15.8 g | C(=O)(O)C1=CC2=C(S1)SC(=C2)C(=O)C=2C=C(C=CC2)C(C(=O)O)CC | C18H14O5S2
